US06423717B1
5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic Acid[4-Methyl-3-(4-methylpiperazin-1-yl)phenyl]amide (E142)
The title compound (E142) was prepared from 5-chloro-3-methylbenzo[b]thiophene-2-sulfonyl chloride and 4-methyl-3-(4-methylpiperazin-1-yl)benzenamine according to the method of Example 1 MH+32 448/450.

reactant | 5-chloro-3-methylbenzo[b]thiophene-2-sulfonyl chloride | ClC1=CC2=C(SC(=C2C)S(=O)(=O)Cl)C=C1 | C9H6Cl2O2S2
reactant | 4-methyl-3-(4-methylpiperazin-1-yl)benzenamine | CC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3
product | 5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic Acid[4-Methyl-3-(4-methylpiperazin-1-yl)phenyl]amide | CC1=C(C=C(C=C1)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C)N2CCN(CC2)C | C21H24ClN3O2S2
